US04316904
4,5-Dihydro-5-methyl-4-oxopyrano[3,2-b]indole-2-carbonitrile
A mixture of 10.5 g (43.3 mmole) 4,5-dihydro-5-methyl-4-oxopyrano[3,2-b]indole-2-carboxamide, 12.6 g (66.2 mmole) p-toluenesulfonyl chloride, and 10.3 g (10.5 ml, 130 mmole) of pyridine in 55 ml DMF was heated under nitrogen on a steam bath for 4 hr. The cooled mixture was added to 500 g ice/water, stirred for 20 min, and the pink solid was filtered and washed with cold water. Two recrystallizations from ethanol yielded light pink needles of mp 190°-192° C.

reactant | 4,5-dihydro-5-methyl-4-oxopyrano[3,2-b]indole-2-carboxamide | 43.3 mmole, 10.5 g | CN1C2=C(C=3C=CC=CC13)OC(=CC2=O)C(=O)N | C13H10N2O3
reactant | p-toluenesulfonyl chloride | 66.2 mmole, 12.6 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | pyridine | 130 mmole, 10.5 ml, 10.3 g | N1=CC=CC=C1 | C5H5N
solvent | DMF | 55 ml | CN(C)C=O | C3H7NO
product | 4,5-Dihydro-5-methyl-4-oxopyrano[3,2-b]indole-2-carbonitrile | CN1C2=C(C=3C=CC=CC13)OC(=CC2=O)C#N | C13H8N2O2
